US04582848
A mixture of 5.0 grams (0.015 mole) of 3-dimethylamino-1-[2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indol-3-yl]-1-propanone in 120 milliliters of tetrahydrofuran is added dropwise to a refluxing mixture of 2.0 grams of lithium aluminum hydride (0.053 mole) and 200 ml. of tetrahydrofuran under nitrogen. The combined mixture is refluxed for one hour, cooled in an ice bath and quenched by the cautious addition of 7 milliliters of water. The mixture is then filtered through celite and the solvent evaporated in vacuo to yield an oil, which slowly crystallizes. The crystals are triturated with ether to give 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(3-dimethylaminopropyl)-indole, m.p. 131°-133° C.

reactant | 3-dimethylamino-1-[2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indol-3-yl]-1-propanone | 0.015 mole, 5.0 grams | CN(CCC(=O)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC)C | C19H23N3O2
reactant | lithium aluminum hydride | 0.053 mole, 2.0 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 120 milliliters | O1CCCC1 | C4H8O
product | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-(3-dimethylaminopropyl)-indole | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CCCN(C)C)C | C19H25N3O
